US04810769
To a slurry of 212.0 g of 2,4-dinitrobenzoic acid in 900 ml of toluene were added with stirring 101.0 g of triethylamine, followed by 159.6 g of bis(2- methoxyethyl)amine. Next 75.7 g of phosphorus oxychloride was added dropwise at such a rate to maintain the reaction temperature below 90° C. The mixture was refluxed for 5 hrs, cooled to 80° C., and poured slowly into 1000 ml of aqueous 5% NaHCO3 solution with stirring. The precipitate was filtered, washed with water and recrystallized from hot methanol to yield 250.7 g of N,N-bis(2-methoxyethyl)-2,4-dinitrobenzamide, mp 89° C. An additional 19.0 g of material was recovered from the toluene filtrate.

reactant | 2,4-dinitrobenzoic acid | 212.0 g | [N+](=O)([O-])C1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C7H4N2O6
reactant | bis(2- methoxyethyl)amine | 159.6 g | COCCNCCOC | C6H15NO2
reactant | phosphorus oxychloride | 75.7 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | toluene | 900 ml | C1(=CC=CC=C1)C | C7H8
solvent | triethylamine | 101.0 g | C(C)N(CC)CC | C6H15N
product | N,N-bis(2-methoxyethyl)-2,4-dinitrobenzamide | 250.7 g | COCCN(C(C1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-])=O)CCOC | C13H17N3O7
